US07544704B2
b) 4-Ethynyl-5-methyl-3-phenyl-isoxazole
To a solution of 2-methyl-4-(5-methyl-3-phenyl-isoxazol-4-yl)-but-3-yn-2-ol (3.77 g, 15.6 mmol) in toluene (38 mL) was added potassium hydroxide (350 mg, 6.24 mmol) and the reaction mixture was stirred for 1.25 h at 110° C. before being cooled to ambient temperature and separated between ethyl acetate (500 mL) and aqueous ammonium chloride (1 M, 400 mL). The aqueous layer was extracted with ethyl acetate (500 mL) and the combined organic layers were dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 90:10) afforded the title compound (2.50 g, 87%) as a yellow solid. MS: m/e=184.1 [M+H]+.

reactant | 2-methyl-4-(5-methyl-3-phenyl-isoxazol-4-yl)-but-3-yn-2-ol | 15.6 mmol, 3.77 g | CC(C)(C#CC=1C(=NOC1C)C1=CC=CC=C1)O | C15H15NO2
reactant | potassium hydroxide | 6.24 mmol, 350 mg | [OH-].[K+]
solvent | toluene | 38 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Ethynyl-5-methyl-3-phenyl-isoxazole | 2.50 g, 87% | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
